US06696473B2
Preparation of 3-(3-Butyl-4-oxothiazolidin-2-ylideneamino)benzonitrile
To a 100 mL flask was added anhydrous EtOH (25 mL), 1-butyl-3-(3-cyanophenyl)thiourea (0.99 g, 4.2 mmol), ethyl chloroacetate (0.51 mL, 5.0 mmol), and anhydrous pyridine (0.5 mL, 5 mmol). After heating under reflux 16 h, the product mixture was concentrated under reduced pressure and chromatographed (silica gel, 2:98 MeOH/DCM) to afford the title product (0.78 g, 67%) as a colorless oil. 1H-NMR (CDCl3): δ 7.40-7.47 (2H, m), 7.25 (1H, m), 7.19 (1H, m), 3.84 (2H, t), 3.84 (2H, s), 1.69 (2H, m), 1.39 (2H, m), 0.97 (3H, t); MS(ESI): 274 (MH+).

reactant | 1-butyl-3-(3-cyanophenyl)thiourea | 4.2 mmol, 0.99 g | C(CCC)NC(=S)NC1=CC(=CC=C1)C#N | C12H15N3S
reactant | ethyl chloroacetate | 5.0 mmol, 0.51 mL | ClCC(=O)OCC | C4H7ClO2
reactant | pyridine | 5 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-(3-Butyl-4-oxothiazolidin-2-ylideneamino)benzonitrile | 0.78 g, 67% | C(CCC)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1 | C14H15N3OS
